US07371749B2
1-(2-Dimethylamino-ethyl)-1H-pyrazole-4-carboxylic acid
Using 1-(2-dimethylamino-ethyl)-1H-pyrazole-4-carboxylic acid ethyl ester, the title compound was prepared in the same manner as described for 2-{[(2-methoxy-ethyl)-methyl-amino]-methyl}-3-methyl-3H-imidazole-4-carboxylic acid. White solid (>98% yield by 1H-NMR). MS: m/e=184(M+H+).

reactant | 1-(2-dimethylamino-ethyl)-1H-pyrazole-4-carboxylic acid ethyl ester | C(C)OC(=O)C=1C=NN(C1)CCN(C)C | C10H17N3O2
reactant | 2-{[(2-methoxy-ethyl)-methyl-amino]-methyl}-3-methyl-3H-imidazole-4-carboxylic acid | COCCN(C)CC1=NC=C(N1C)C(=O)O | C10H17N3O3
product | 1-(2-Dimethylamino-ethyl)-1H-pyrazole-4-carboxylic acid | >98% yield | CN(CCN1N=CC(=C1)C(=O)O)C | C8H13N3O2
